* C:\Users\rejav\Projects\GitHub\ltspice\Buck_with_analog_feedback.asc
Vin1 Vin 0 12
M1 N001 N005 Vin Vin AO6407
D1 0 N001 1N4148
L1 Vout N001 50m
C1 Vout 0 3.6n
V2 N004 0 PULSE(0 12V 0 5u 5u 0 10u)
R2 N002 N006 1k
XU3 Vfb N003 Vin 0 N002 level3a Avol=100Meg GBW=10Meg Slew=10Meg Ilimit=500m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=100G
XU2 N006 N004 Vin 0 N005 level3a Avol=100Meg GBW=10G Slew=10G Ilimit=500m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=100G
R4 N003 N002 1k
R5 0 N003 1k
R1 Vout Vfb 10k
R3 Vfb 0 10k
R6 Vout 0 100
C2 Vout 0 1.8n
.model D D
.lib C:\Users\rejav\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\rejav\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1m
.lib UniversalOpAmp3a.lib
.backanno
.end
